US06395907B1
To a solution of 4-bromophthalic anhydride (4.54 g, 20.0 mmol), triphenylphosphine (520 mg, 2.0 mmol), cuprous iodide (190 mg, 1.0 mmol), bis(triphenylphosphine)palladium dichloride (280 mg, 0.4 mmol) in 2:1 triethylamine/benzene (75 mL) was added 1-ethynylnaphthalene (4.94 g, 32.5 mmol) in benzene (25 mL) by cannula transfer and the mixture was heated at reflux for 2 h. The cooled solution was filtered and the precipitate was added to water (150 mL), filtered and washed with water (3×5 mL). The crude yellow solid was recrystallized from toluene, filtered and washed with hexanes (3×5 mL). The product was then added to 0.15 M NaHCO3(aq), stirred vigorously for 1 h and filtered. The yellow solid was dried at reduced pressure to constant weight to yield 4-(1-naphthylethynyl)phthalic anhydride (2.16 g, 36.2%). mp 220-222° C.; 1H NMR (CDCl3, 300 MHz) δ7.48-7.68 (m, 3H), 7.82 (d, J=7.2 Hz, 1H), δ7.92 (t, J=8.1 Hz, 2H), δ7.99 (d, J=7.8 Hz, 1H), δ8.07 (d, J=8.0 Hz, 1H), δ8.20 (s, 1H), δ8.35 (d, J8.1 Hz, 1H); 13 C NMR (CDCl3, 300 MHz) δ92.0, 94.6, 119.3, 125.5, 125.8, 125.9, 127.0, 127.6, 128.4, 128.8, 129.7, 130.6, 131.7, 131.9, 132.2, 133.3, 133.4, 138.7, 162.3, 162.3. Anal. Calcd for C20H10O3: C, 80.53;H, 3.38. Found: C, 80.37;H, 3.36.

reactant | 4-bromophthalic anhydride | 20.0 mmol, 4.54 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | triphenylphosphine | 2.0 mmol, 520 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine benzene | 75 mL | C(C)N(CC)CC.C1=CC=CC=C1
reactant | 1-ethynylnaphthalene | 32.5 mmol, 4.94 g | C(#C)C1=CC=CC2=CC=CC=C12 | C12H8
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
catalyst | bis(triphenylphosphine)palladium dichloride | 0.4 mmol, 280 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(1-naphthylethynyl)phthalic anhydride | 2.16 g, 36.2% | C1(=CC=CC2=CC=CC=C12)C#CC=1C=C2C(C(=O)OC2=O)=CC1 | C20H10O3
